US06624158B2
N-{2-[Cyclopentyl(isopropyl)amino]ethyl}-N′-({6-[(2,2-diphenylethyl)amino]-9-[(2R,3R,4S,5R)-5-(2-ethyl-2H-tetrazol-5-yl)-3,4-dihydroxytetrahydro-2-furanyl]-9H-purin-2-yl}methyl)urea
A solution of (2R,3R,4R,5R)-4-(acetoxy)-2-{2-({[({2-[cyclopentyl(isopropyl)amino]ethyl}amino)carbonyl]amino}methyl)-6-[(2,2-diphenylethyl)amino]-9H-purin-9-yl}-5-(2-ethyl-2H-tetrazol-5-yl)tetrahydro-3-furanyl acetate (Preparation 45) (135 mg, 0.16 mmol) and sodium carbonate (5 mg, 0.05 mmol) in methanol (5 ml) was stirred at room temperature overnight. The solvent was evaporated under reduced pressure and the residue was purified by column chromatography on silica gel eluting with a gradient system of dichloromethane:methanol:conc. aqueous ammonia (95:5:0.5 by volume) gradually changing to dichloromethane:methanol:conc. aqueous ammonia (90:10:1 by volume). Product containing fractions were evaporated and the resulting solid was dried under vacuum to afford the title compound as a white powder (35 mg).

reactant | (2R,3R,4R,5R)-4-(acetoxy)-2-{2-({[({2-[cyclopentyl(isopropyl)amino]ethyl}amino)carbonyl]amino}methyl)-6-[(2,2-diphenylethyl)amino]-9H-purin-9-yl}-5-(2-ethyl-2H-tetrazol-5-yl)tetrahydro-3-furanyl acetate | 0.16 mmol, 135 mg | C(C)(=O)O[C@H]1[C@@H](O[C@@H]([C@H]1OC(C)=O)C=1N=NN(N1)CC)N1C2=NC(=NC(=C2N=C1)NCC(C1=CC=CC=C1)C1=CC=CC=C1)CNC(=O)NCCN(C(C)C)C1CCCC1 | C42H54N12O6
reactant | sodium carbonate | 0.05 mmol, 5 mg | C([O-])([O-])=O.[Na+].[Na+]
solvent | methanol | 5 ml | CO | CH4O
product | N-{2-[Cyclopentyl(isopropyl)amino]ethyl}-N′-({6-[(2,2-diphenylethyl)amino]-9-[(2R,3R,4S,5R)-5-(2-ethyl-2H-tetrazol-5-yl)-3,4-dihydroxytetrahydro-2-furanyl]-9H-purin-2-yl}methyl)urea | 35 mg | C1(CCCC1)N(CCNC(=O)NCC1=NC(=C2N=CN(C2=N1)[C@@H]1O[C@@H]([C@H]([C@H]1O)O)C=1N=NN(N1)CC)NCC(C1=CC=CC=C1)C1=CC=CC=C1)C(C)C | C38H50N12O4
